US07863271B2
To a solution of LiI (298 mg, 2.22 mmol) in refluxing anhydrous pyridine (50 mL) was added (R)-methyl 2-(3-((tert-butyldimethylsilyloxy)methyl)morpholino)benzoxazole-4-carboxylate (226 mg, 0.55 mmol) and the reaction mixture was refluxed for 24 h. The mixture was cooled to room temperature, concentrated to dryness and dried in vacuum to provide lithium (R)-2-(3-((tert-butyldimethylsilyloxy)methyl)morpholino)benzoxazole-4-carboxylate as a yellow oil which was used without further purification. MS consistent.

reactant | LiI | 2.22 mmol, 298 mg | [Li+].[I-]
reactant | (R)-methyl 2-(3-((tert-butyldimethylsilyloxy)methyl)morpholino)benzoxazole-4-carboxylate | 0.55 mmol, 226 mg | [Si](C)(C)(C(C)(C)C)OC[C@H]1COCCN1C=1OC=2C(N1)=C(C=CC2)C(=O)OC | C20H30N2O5Si
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | lithium (R)-2-(3-((tert-butyldimethylsilyloxy)methyl)morpholino)benzoxazole-4-carboxylate | [Si](C)(C)(C(C)(C)C)OC[C@H]1COCCN1C=1OC=2C(N1)=C(C=CC2)C(=O)[O-].[Li+] | InChI=1S/C19H28N2O5Si.Li/c1-19(2,3)27(4,5)25-12-13-11-24-10-9-21(13)18-20-16-14(17(22)23)7-6-8-15(16)26-18;/h6-8,13H,9-12H2,1-5H3,(H,22,23);/q;+1/p-1/t13-;/m1./s1
